US07335658B2
6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID [2-(4-METOXYPHENYL)ETHYL]AMIDE
Following the procedure of Example 15, making variations only as required to use 6-chloropyridazine-3-carboxylic acid [2-(4-metoxyphenyl)ethyl]amide in place of 6-chloropyridazine-3-carboxylic acid (2-cyclopropyl-2-hydroxyethyl)amide to react with piperazin-1-yl-(2-trifluoromethylphenyl)methanone, the title compound was obtained as a white solid (12% yield). 1H NMR (400 MHz, CDCl3) δ 8.04, 7.93, 7.74, 7.63, 7.56, 7.36, 7.12, 6.92, 6.81, 4.08-3.46, 3.33, 2.87.

reactant | 6-chloropyridazine-3-carboxylic acid [2-(4-metoxyphenyl)ethyl]amide | COC1=CC=C(C=C1)CCNC(=O)C=1N=NC(=CC1)Cl | C14H14ClN3O2
reactant | piperazin-1-yl-(2-trifluoromethylphenyl)methanone | N1(CCNCC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C12H13F3N2O
product | 6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID [2-(4-METOXYPHENYL)ETHYL]AMIDE | COC1=CC=C(C=C1)CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C26H26F3N5O3
